US04150129
The solution of 13.6 g of 3-acetonyl-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, 25.5 ml of isopropylamine, 10 ml of 5.8 N methanolic hydrogen chloride and 3.4 g of sodium cyanoborohydride in 260 ml of methanol is refluxed for three days. The mixture is cooled to 0°, acidified to pH=1 with concentrated hydrochloric acid and evaporated. The residue is taken up in water, the mixture washed with diethyl ether, rendered basic to pH=10-11 with 3 N aqueous sodium hydroxide and extracted with diethyl ether. The extract is dried, evaporated and 13.5 g of the residual free base is dissolved in 80 ml of acetone. The solution is treated with 10.5 ml of 4.4 N ethanolic hydrochloric acid, the mixture evaporated, the residue crystallized from diethyl ether and recrystallized from isopropanol-ethyl acetate, to yield the 3-(2-isopropylaminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone hydrochloride hemihydrate melting at 165°-167°.

reactant | 3-acetonyl-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 13.6 g | C(C(=O)C)C=1C(NCCCC1C1=CC=C(C=C1)OC)=O | C16H19NO3
reactant | isopropylamine | 25.5 ml | C(C)(C)N | C3H9N
reactant | hydrogen chloride | 5.8 N, 10 ml | Cl | ClH
reactant | sodium cyanoborohydride | 3.4 g | C(#N)[BH3-].[Na+]
solvent | methanol | 260 ml | CO | CH4O
product | 3-(2-isopropylaminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone hydrochloride hemihydrate | O.Cl.C(C)(C)NC(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C.C(C)(C)NC(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C.Cl | InChI=1S/2C19H28N2O2.2ClH.H2O/c2*1-13(2)21-14(3)12-18-17(6-5-11-20-19(18)22)15-7-9-16(23-4)10-8-15;;;/h2*7-10,13-14,21H,5-6,11-12H2,1-4H3,(H,20,22);2*1H;1H2
